US06140322
(a) 2-Hydroxyethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride
To a solution of 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride (5.01 g, 23.3 mmol) in ethanol (200 ml) at 0° C. in a pressure bottle was added 2.5 M sodium hydroxide solution (10 ml). This solution was stirred for 0.2 h before ethylene oxide (4.2 ml) was added and the bottle was capped and the solution was stirred overnight while slowly allowing it to warm to ambient temperature. The solvent was concentrated and the aqueous solution was extracted twice with dichloromethane. The combined and dried (magnesium sulfate) extracts were concentrated to give an oil. This oil was immediately dissolved in ethanol (125 ml) and hydrochloric acid in ethanol was added until a distinctly acidic solution was obtained. After cooling, the title compound was collected and isolated as an off-white solid (3.76 g, 62%), m.p. 213° C. (dec.).

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 23.3 mmol, 5.01 g | Cl.[N+](=O)([O-])C1=CC=C2CCNCC2=C1
reactant | sodium hydroxide | 2.5 M, 10 ml | [OH-].[Na+]
reactant | ethylene oxide | 4.2 ml | C1CO1 | C2H4O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 2-Hydroxyethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 3.76 g, 62% | Cl.OCCC1NCCC2=CC=C(C=C12)[N+](=O)[O-] | InChI=1S/C11H14N2O3.ClH/c14-6-4-11-10-7-9(13(15)16)2-1-8(10)3-5-12-11;/h1-2,7,11-12,14H,3-6H2;1H
